US05037827
(2) Synthesis of 6,12-dioxaheptadecanenitrile
Sodium hydride (60%, 0.75 g) was added to a solution of 3 g of 5-pentyloxy-1-pentanol prepared in the above-described step (1) in 50 ml of N,N-dimetnylformamide. Then 2 ml of 5-bromopentanenitrile was added thereto and the mixture was stirred at 60° C. for 2 h. 3% hydrochloric acid was added to the reaction solution. After extraction with ether, the organic layer was dried and concentrated and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1) to obtain 1 g of the intended product.

reactant | Sodium hydride | 0.75 g | [H-].[Na+]
reactant | 5-pentyloxy-1-pentanol | 3 g | C(CCCC)OCCCCCO | C10H22O2
reactant | 5-bromopentanenitrile | 2 ml | BrCCCCC#N | C5H8BrN
reactant | hydrochloric acid | Cl | ClH
product | 6,12-dioxaheptadecanenitrile | 1 g | C(CCCCOCCCCCOCCCCC)#N | C15H29NO2
